US07786165B2
4-({5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)benzaldehyde
A mixture of [4-({5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)phenyl]methanol (2.00 g, 4.58 mmol), manganese dioxide (7.00 g, 80.5 mmol) and tetrahydrofuran (50 mL) was stirred at room temperature for 2 hr. The insoluble material was filtered off and the filtrate was concentrated to give the title compound (1.70 g, yield 86%) as colorless crystals.

reactant | [4-({5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)phenyl]methanol | 4.58 mmol, 2.00 g | C1(=CC=CC=C1)CCC1=CC(=NN1CC1=CC=C(C=C1)CO)C1=CC=C(C=C1)C(F)(F)F | C26H23F3N2O
catalyst | manganese dioxide | 80.5 mmol, 7.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-({5-(2-phenylethyl)-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)benzaldehyde | 1.70 g, yield 86% | C1(=CC=CC=C1)CCC1=CC(=NN1CC1=CC=C(C=O)C=C1)C1=CC=C(C=C1)C(F)(F)F | C26H21F3N2O
